US06130346
A reaction was conducted as described in Example 1 except that tris[tris(dimethylamino)phosphoranylidene-amino]phosphine oxide was replaced with the same molar amount of a partially hydrated tris[tris(dimethylamino)phosphoranylidene-amino]phosphine oxide, [(Me2N)3P=N]3P=O.0.29H2O, phenol was replaced with the same molar amount of decanethiol and PGE was replaced with 2,3-epoxynorbornane. Desired 2-decylthio-3-hydroxynorbornane was formed in an analytical yield of 95% and isolated in a yield of 90%.

reactant | tris[tris(dimethylamino)phosphoranylidene-amino]phosphine oxide | CN(C)P(N(C)C)(N(C)C)=NP(N=P(N(C)C)(N(C)C)N(C)C)(N=P(N(C)C)(N(C)C)N(C)C)=O | C18H54N12OP4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | decanethiol | C(CCCCCCCCC)S | C10H22S
reactant | 2,3-epoxynorbornane | O1C2C3CCC(C21)C3 | C7H10O
solvent | (Me2N)3P | P(N(C)C)(N(C)C)N(C)C | C6H18N3P
product | 2-decylthio-3-hydroxynorbornane | yield of 95% | C(CCCCCCCCC)SC1C2CCC(C1O)C2 | C17H32OS
